US07094801B2
2-{2,4-Dimethoxy-5-[3-oxo-3-(4-aminosulfonyl-phenyl)-E-propenyl]-phenyl}-indole-1-carboxylic acid tert-butyl ester
The title compound was prepared by condensing 4-acetyl-benzenesulfonamide (Ex-26A) and 2-(5-formyl-2,4-dimethoxy-phenyl)-indole-1-carboxylic acid tert-butyl ester (Ex-36A) in a similar manner as described in Ex-22. Yellow solid, 40% yield, mp 120–122° C. 1H-NMR (CDCl3) δ 8.01–8.19 (m, 6H), 7.68 (s, 1H), 7.56 (d, J=8 Hz, 1H), 7.46 (d, J=16 Hz, 1H), 7.21–7.35 (m, 2H), 6.53 (d, J=14 Hz, 2H), 5.01 (s, 2H), 4.00 (s, 3H), 3.85 (s, 3H), 1.42 (s, 9H), MS m/z=563 ([M+H]+). HRMS (ES+) Calcd. for C30H30N2O7S: 563.1852. Found: 563.1862.

reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 2-(5-formyl-2,4-dimethoxy-phenyl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(C=C(C(=C1)C=O)OC)OC | C22H23NO5
product | 2-{2,4-Dimethoxy-5-[3-oxo-3-(4-aminosulfonyl-phenyl)-E-propenyl]-phenyl}-indole-1-carboxylic acid tert-butyl ester | 40% yield | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(C=C(C(=C1)\C=C\C(C1=CC=C(C=C1)S(=O)(=O)N)=O)OC)OC | C30H30N2O7S
